US05681954
1-(3-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)propyl)-4-(2-methoxyphenyl)piperazine Dihydrochloride Hemihydrate
To 100 ml of tetrahydrofuran were added 18 ml of 1.0M borane-tetrahydrofuran complex and 1.14 g of 1-(3-(4,5-dimethoxy-2-(1-pyrrolyl)phenyl)-1-oxopropyl)-4-(2-methoxyphenyl)piperazine at room temperature, and the mixture was heated under reflux for 27 hours. Since it was found that the reaction had not completed, 10 ml of the borane-tetrahydrofuran complex was further added, and the refluxing was continued for additional 9 hours. After cooling to room temperature, 10 ml of water was added to the reaction mixture, and the solvent was removed under reduced pressure. To the residue was added 35 ml of 5% hydrochloric acid, followed by heating at 50° to 60° C. for 2 hours. The reaction mixture was dried over anhydrous sodium sulfate and the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform) to yield 780 mg of a pale yellow oily substance, which was dissolved in 15 ml of ethanol, 1.0 ml of concentrated hydrochloric acid was added thereto, and the solvent was removed under reduced pressure. Recrystallization of the residue from ethanol-ethyl ether yielded 500 mg of the title compound as a colorless prism crystal.

reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 1-(3-(4,5-dimethoxy-2-(1-pyrrolyl)phenyl)-1-oxopropyl)-4-(2-methoxyphenyl)piperazine | 1.14 g | COC1=CC(=C(C=C1OC)CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)N1C=CC=C1 | C26H31N3O4
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(3-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)propyl)-4-(2-methoxyphenyl)piperazine Dihydrochloride Hemihydrate | 500 mg | O.Cl.Cl.COC1=CC(=C(C=C1OC)CCCN1CCN(CC1)C1=C(C=CC=C1)OC)N1C=CC=C1.COC1=CC(=C(C=C1OC)CCCN1CCN(CC1)C1=C(C=CC=C1)OC)N1C=CC=C1.Cl.Cl | InChI=1S/2C26H33N3O3.4ClH.H2O/c2*1-30-24-11-5-4-10-22(24)29-17-15-27(16-18-29)12-8-9-21-19-25(31-2)26(32-3)20-23(21)28-13-6-7-14-28;;;;;/h2*4-7,10-11,13-14,19-20H,8-9,12,15-18H2,1-3H3;4*1H;1H2
